US04337256
1-(4-Methylphenyl)-5-ethoxycarbonylisoquinoline (14.5 g) was dissolved in 200 ml of anhydrous tetrahydrofuran, and with stirring under cooling, lithium aluminum hydride (suspended in 100 ml of tetrahydrofuran) was added dropwise. The mixture was stirred at room temperature for 1 hour. Water and a 20% aqueous solution of sodium hydroxide were added to the reaction mixture, and the mixture was stirred for 30 minutes. The reaction mixture was filtered through Celite. The filtrate was concentrated, and the residue was recrystallized from benzene to afford 7.5 g of 1-(4-methylphenyl)-5-hydroxymethylisoquinoline as colorless needles.

reactant | 1-(4-Methylphenyl)-5-ethoxycarbonylisoquinoline | 14.5 g | CC1=CC=C(C=C1)C1=NC=CC2=C(C=CC=C12)C(=O)OCC | C19H17NO2
reactant | lithium aluminum hydride | 100 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 1-(4-methylphenyl)-5-hydroxymethylisoquinoline | 7.5 g | CC1=CC=C(C=C1)C1=NC=CC2=C(C=CC=C12)CO | C17H15NO
